US07572809B2
A 2.0˜5.0 mL process vial was charged with Trifluoro-methanesulfonic acid 1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl ester (100 mg) in 2 mL NMP. Excess 1-Methyl-piperazine was added to the mixture. The vial was heated at 200° C. for 2 h under microwave irradiation. After cooling, the reaction mixture was sent to prep-HPLC to give 5 mg of [1-Isopropoxy-6-(4-methyl-piperazin-1-yl)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine as a yellow solid. LC-MS m/e 381 (MH+).

reactant | Trifluoro-methanesulfonic acid 1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl ester | 100 mg | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)NC1=NNC(=C1)C | C17H17F3N4O4S
reactant | 1-Methyl-piperazine | CN1CCNCC1 | C5H12N2
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | [1-Isopropoxy-6-(4-methyl-piperazin-1-yl)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | 5 mg | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)N1CCN(CC1)C)NC1=NNC(=C1)C | C21H28N6O
